US07262212B2
A mixture of 8-(4-chlorophenyl)-1,4-dioxa-8-azaspiro[4.5]decane (2.6 g, 10.25 mmol), concentrated hydrochloric acid (12 ml), water (10 ml), and ethanol (50 ml) was heated under reflux for 5 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue 10% sodium hydroxide aqueous solution was added, and the mixture was extracted with methylene chloride. The extract was washed with water and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in methanol (50 ml), to which sodium borohydride (388 mg, 10.25 mmol) was added while cooling in an ice-bath, and the mixture was stirred for 30 minutes. To the reaction mixture, 10% hydrochloric acid was added, and the mixture was concentrated under reduced pressure. Saturated sodium bicarbonate aqueous solution was added to the residue, and the mixture was extracted with methylene chloride. The extract was washed with water and brine, and was dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to afford 1-(4-chlorophenyl)piperidin-4-ol (1.73 g, yield 80%) as a pale yellow crystalline powder.

reactant | 8-(4-chlorophenyl)-1,4-dioxa-8-azaspiro[4.5]decane | 10.25 mmol, 2.6 g | ClC1=CC=C(C=C1)N1CCC2(OCCO2)CC1 | C13H16ClNO2
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
reactant | sodium borohydride | 10.25 mmol, 388 mg | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-chlorophenyl)piperidin-4-ol | 1.73 g, yield 80% | ClC1=CC=C(C=C1)N1CCC(CC1)O | C11H14ClNO
